US07833820B2
Vinyltrichlorosilane (68.8 g, 426 mmol) and cobalt octacarbonyl (700 mg) were placed in a 100 mL rb flask and cooled in an ice bath to 0° C. Dichlorosilane (bp. 8° C., 44.3 g, 439 mmol) was then condensed into the flask, The system was allowed to warm up to room temperature during night. Distillation at 60 . . . 62° C./8 mbar gave 1,1,1,4,4-Pentachloro-1,4-disilabutane (120.8 g, 460 mmol) in 93% yield.

reactant | Vinyltrichlorosilane | 426 mmol, 68.8 g | C(=C)[Si](Cl)(Cl)Cl | C2H3Cl3Si
reactant | Dichlorosilane | 439 mmol, 44.3 g | Cl[SiH2]Cl | Cl2H2Si
catalyst | cobalt octacarbonyl | 700 mg | [CH-]=O.[CH-]=O.[C-]#[O+].[C-]#[O+].[C-]#[O+].[C-]#[O+].[C-]#[O+].[C-]#[O+].[Co].[Co+2]
product | 1,1,1,4,4-Pentachloro-1,4-disilabutane | 460 mmol, 120.8 g, 93% yield | Cl[Si](CC[SiH](Cl)Cl)(Cl)Cl | C2H5Cl5Si2
